US04116951
Boc-Thr(Bzl)-Ser(Bzl)-Ser(Bzl)-Glu(OBzl)-OH.
Boc-Ser(Bzl)-Ser(Bzl)-Glu(OBzl)-OH (71.6 g, 104 mmol) was treated with 2.7 liters of freshly prepared 3.9 N HCl in THF for 45 minutes. The mixture was evaporated to dryness and the residue evaporated twice more with THF to give a solid mass (59.3 g; mp 161°-165°). It was collected and washed with ether and stirred in 500 ml of DMF with Boc-Thr(Bzl)-OSu (38.2 g, 94 mmol) in the presence of Et3N (25 ml) at 0° for 1 hour and then at 25° for 15 hours. More Et3N (14.5 ml) was added in several portions during this time to maintain the reaction slightly basic. Some insoluble matter formed was filtered off and the filtrate evaporated to an oil which was dissolved in EtOAc (1.5 liters), washed with 5% HOAc, H2O (2 times), dried (Na2SO4), and evaporated to a solid mass. The product was recrystallized from EtOAc and petroleum ether to yield, 64.8 g (78.1%); mp 115°-118°; [α]D25 = +11.64° (c l, DMSO).

reactant | Boc-Ser(Bzl)-Ser(Bzl)-Glu(OBzl)-OH | 104 mmol, 71.6 g | N([C@@H](COCC1=CC=CC=C1)C(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)N[C@@H](CCC(OCC1=CC=CC=C1)=O)C(=O)O)C(=O)OC(C)(C)C | C37H45N3O10
reactant | HCl | 3.9 N | Cl | ClH
reactant | Boc-Thr(Bzl)-OSu | 94 mmol, 38.2 g | N([C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C20H26N2O7
reactant | Et3N | 25 ml | CCN(CC)CC | C6H15N
reactant | Et3N | 14.5 ml | CCN(CC)CC | C6H15N
solvent | THF | C1CCOC1 | C4H8O
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
solvent | DMSO | CS(=O)C | C2H6OS
product | Boc-Thr(Bzl)-Ser(Bzl)-Ser(Bzl)-Glu(OBzl)-OH | N([C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)N[C@@H](CCC(OCC1=CC=CC=C1)=O)C(=O)O)C(=O)OC(C)(C)C | C48H58N4O12
